US09169261B2
To a solution of (S)-5-(cyclopent-1-en-1-yl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.07 g, 0.19 mmol, 1 eq) in 1 mL of MeOH was added 10% Pd/C (0.02 g, 0.02 mmol, 0.1 eq). The reaction mixture was equipped with a H2 balloon and stirred for 3 hr at room temperature. The contents were filtered and the purified by HPLC to afford (S)-5-cyclopentyl-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.005 g, 0.013 mmol, 7%). 1H NMR (400 MHz, CD3OD) δ 8.83 (s, 2 H), 7.78 (q, J=1.1 Hz, 1 H), 7.73 (d, J=5.8 Hz, 1 H), 7.57 (d, J=3.9 Hz, 1 H), 6.94 (dd, J=2.7, 4.7 Hz, 1 H), 6.86 (d, J=5.9 Hz, 1 H), 5.00-4.80 (m, 1 H), 4.50-3.50 (br, 4 H), 3.20-3.10 (m, 1H), 2.60-2.48 (m, 1 H), 2.48-2.38 (br, 1 H), 2.22-2.12 (m, 2 H), 1.95-1.60 (m, 6 H); MS: (ES) m/z calculated for C21H24N6O [M+H]+ 377.2, found 377.

reactant | (S)-5-(cyclopent-1-en-1-yl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.19 mmol, 0.07 g, 1 eq | C1(=CCCC1)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C21H22N6O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | Pd/C | 0.02 mmol, 0.02 g, 0.1 eq | [Pd] | Pd
product | (S)-5-cyclopentyl-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.013 mmol, 0.005 g, 7% | C1(CCCC1)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C21H24N6O
